US07723368B2
Step 5) 2-amino-5-[4-(difluoromethoxy)phenyl]-5-{3-[3-(2-hydroxyethylidene)cyclobutyl]phenyl}-3-methyl-3,5-dihydro-4H-imidazol-4-one
(3-{3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-phenyl}-cyclobutylidene)-acetic acid ethyl ester (0.202 g, 0.430 mmol) was dissolved in tetrahydrofuran (THF, 2 mL) and chilled in an ice bath. To this solution was added a 1 M solution of diisobutylaluminum hydride (DIBAL) in THF (11 ml). The reaction was stirred for 1 hour at ambient temperature, and then quenched with crushed ice, followed by addition of sodium chloride and ammonium chloride salts. The crude mixture was extracted with diethyl ether and dried with magnesium sulfate to yield a yellow oil 33 mg (18%); MS (ES) m/z 426.1 [M−H]−.

reactant | (3-{3-[2-Amino-4-(4-difluoromethoxy-phenyl)-1-methyl-5-oxo-4,5-dihydro-1H-imidazol-4-yl]-phenyl}-cyclobutylidene)-acetic acid ethyl ester | 0.430 mmol, 0.202 g | C(C)OC(C=C1CC(C1)C1=CC(=CC=C1)C1(N=C(N(C1=O)C)N)C1=CC=C(C=C1)OC(F)F)=O | C25H25F2N3O4
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | THF | 11 ml | O1CCCC1 | C4H8O
product | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-{3-[3-(2-hydroxyethylidene)cyclobutyl]phenyl}-3-methyl-3,5-dihydro-4H-imidazol-4-one | 33 mg, 18% | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C1CC(C1)=CCO)C1=CC=C(C=C1)OC(F)F | C23H23F2N3O3
